US04546101
To a solution of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (0.85 g) in methanol (45 ml) and tetrahydrofuran (9 ml) was added conc.hydrochloric acid (0.56 ml) and the mixture was stirred at ambient temperature for 1.5 hours. The resultant solution was adjusted to pH 7.0 with 5% aqueous sodium bicarbonate and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (150 ml). The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (0.68 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate | 0.85 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2N=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C33H27N7O6S2
reactant | hydrochloric acid | 0.56 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 45 ml | CO | CH4O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[2-(3-pyridazinyl)vinyl]-3-cephem-4-carboxylate | 0.68 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2N=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C32H27N7O5S2
